Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS
___ 12:59AM BLOOD WBC-9.8 RBC-3.32* Hgb-10.3* Hct-32.2* 
MCV-97 MCH-31.0 MCHC-32.0 RDW-12.6 RDWSD-45.1 Plt ___
___ 12:59AM BLOOD ___ PTT-31.6 ___
___ 12:59AM BLOOD Plt ___
___ 12:59AM BLOOD Glucose-92 UreaN-11 Creat-0.8 Na-140 
K-3.1* Cl-103 HCO3-24 AnGap-13
___ 01:46AM BLOOD CK(CPK)-210
___ 06:57AM BLOOD ALT-17 AST-21 AlkPhos-63
___ 12:59AM BLOOD Calcium-8.5 Phos-2.9 Mg-1.5*

Urine culture from ___: Proteus mirabilis >100,000 CFU/mL 
 
     Amox/Clav        4      S        
     Ampicillin       >=32   R        
     Cefazolin        8      S        
     Ceftazidime      <=1    S        
     Ceftriaxone      <=1    S        
     Ciprofloxacin    <=0.25 S        
     Ertapenem        <=0.5  S        
     Gentamicin       <=1    S        
     Imipenem         8      R        
     Levofloxacin     <=0.12 S        
     Nitrofurantoin   128    R        
     Pip/Tazo         <=4    S        
     Tobramycin       <=1    S        
     Trimeth/Sulfa    >=320  R 

PERTINENT EEG RESULTS
EEG (___):
24 HOUR IMPRESSION:  This was an abnormal continuous video-EEG 
monitoring study due to:

1) Frequent brief periods of generalized slowing during 
wakefulness, indicative of subcortical dysfunction or deep 
midline dysfunction, nonspecific in etiology. 

2)Diffuse background slowing and disorganization, consistent 
with a moderate encephalopathy, nonspecific as to etiology. 

There were no pushbutton events. No focal abnormalities, 
epileptiform discharges, or electrographic seizures were seen.

EEG (___):
24 HOUR IMPRESSION:  This was an abnormal continuous video-EEG 
monitoring study due to:
1.Frequent brief periods of generalized slowing during 
wakefulness, indicative of subcortical dysfunction or deep 
midline dysfunction, nonspecific in etiology. 
2.Diffuse background slowing and disorganization, consistent 
with a mild encephalopathy, nonspecific as to etiology. 

TTE ___
LVEF 72% Normal study. Normal biventricular cavity sizes and 
regional/global biventricular systolic function. No valvular 
pathology or pathologic flow identified. No definite structural 
cardiac
source of embolism identified.

___ RENAL U.S. 
1. No hydronephrosis and no renal stones visualized. 
2. Enlarged prostate. 

DISCHARGE LABS:
===============
___ 07:20AM BLOOD WBC-5.8 RBC-3.41* Hgb-10.6* Hct-33.4* 
MCV-98 MCH-31.1 MCHC-31.7* RDW-13.0 RDWSD-46.2 Plt ___
___ 06:43AM BLOOD Glucose-239* UreaN-14 Creat-0.9 Na-139 
K-4.4 Cl-102 HCO3-26 AnGap-11
___ 06:43AM BLOOD Calcium-9.0 Phos-3.3 Mg-1.___RIEF HOSPITAL COURSE
======================
___ w/ HTN, HLD, DM2, R parietal stroke (___), TBI/SDH 
(___), and developmental delay admitted with progressive 
unresponsiveness, requiring intubation for airway protection. 
Extensive workup, including EEG and MRI brain, was unremarkable, 
and the presentation was likely metabolic encephalopathy due to 
Proteus UTI. He improved with antibiotics, and completed a 
ten-day course of treatment in house. 

TRANSITIONAL ISSUES:
======================
[ ] Monitor BPs, as they were repeatedly elevated. He was 
started on losartan and uptitrated to 75mg qd, where his BPs 
seemed well controlled.
[ ] Please copy-frward the "disposition planning" section from 
below for any future admission notes, given logistical 
difficulties with his discharge.
 

ACUTE ISSUES:
=======================
# Toxic metabolic encephalopathy: 
# Proteus mirabilis Urinary Tract Infection 
# Delirium
He was admitted to the ___ intensive care unit, given 
altered mental status and initial unresponsiveness. MRI without 
contrast at ___ did not show any acute intracranial 
pathology. cvEEG showed generalized slowing consistent with 
encephalopathy, without evidence for seizures or epileptiform 
discharges. Patient's electrolytes and CBC were within normal 
limits. Urine culture at ___ grew Proteus, sensitive to 
ceftriaxone and amoxicillin. He was initially started on IV 
ceftriaxone, and transitioned to oral Augmentin, with 
improvement in mental function. Renal ultrasound and abdominal 
x-ray were completed, given multiple Proteus infections and 
associated with nephrolithiasis, however both were within normal 
limits. The patient was briefly observed in the neuro ICU then 
transferred to medicine for further care. His mental status 
gradually improved with the treatment of UTI, and was at the 
baseline (per his group home) by time of discharge. 

#Hypercarbia: 
End-tidal CO2 elevated to 70 at presentation to ___. 
However, the patient was extubated and maintained adequate 
respiratory status prior to transfer to ___. CXR within normal 
limits. Unclear etiology, but the patient maintained adequate 
SpO2 on RA with normal work of breathing while hospitalized at 
___.

#Troponemia: 
Troponin was initially elevated to 0.2 at ___, but on 
repeat here, downtrended to 0.09 then 0.08. EKG within normal 
limits. Possibly secondary to demand ischemia in the setting of 
urinary tract infection, given acute onset of encephalopathy. 

# Hypertension: 
Continued metoprolol 12.5mg BID. BPs have been elevated during 
admission, and he was started on losartan during this admission, 
and discharged on losartan 75mg daily. 

#Disposition planning 
In future, please be aware of the below process in order to 
discharge Mr. ___ from the hospital with an appropriate 
timeline: 
- Needs letter of intent after rehab is found. 
- This letter of intent must be signed by his court appointed 
lawyer, ___ (___), from ___ 
office.
- Sister then needs to take the letter to a court for approval 
to rehab.

CHRONIC ISSUES:
=======================
# HLD: Continued home atorvastatin
# T2DM: Held home metformin/linagliptin/repaglinide, and resumed 
on discharge. 
# Hx CVA: Continued home ASA/atorvastatin
# Anemia: At baseline. Continued home ferrous sulfate
# Depression: Continued home fluoxetine

=========================
#CONTACT: Emergency Contact/Proxy/Next of ___: 
___ (sister) is his legal guardian
Patient's Primary Caregiver: ___ (___)
___ Coordinator for ___ home: ___ -
___
#CODE: Full
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Calcium Carbonate 500 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Ferrous Sulfate 325 mg PO DAILY 
6. FLUoxetine 20 mg PO DAILY 
7. linaGLIPtin 5 mg oral DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Repaglinide 1 mg PO TIDAC 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 75 mg PO DAILY  
2.  Aspirin EC 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Calcium Carbonate 500 mg PO BID  
5.  Docusate Sodium 100 mg PO BID  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  linaGLIPtin 5 mg oral DAILY  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  Metoprolol Tartrate 12.5 mg PO BID  
11.  Repaglinide 1 mg PO TIDAC  
12.  Vitamin D ___ UNIT PO DAILY  

Greater than 30 minutes was spent discharging this medically and 
socially complex patient.
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Proteus urinary tract infection complicated by encephalopathy

SECONDARY DIAGNOSIS:
Type 2 diabetes mellitus
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes. Alert and oriented x ___ 
(person, sometimes place)
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you were unresponsive and very 
confused.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-You were admitted to the neurology intensive care unit, and a 
breathing tube was placed to protect your airway.  The breathing 
tube was successfully removed; however, you were still confused. 
 You underwent head imaging, which was not concerning for a 
sudden process, including a seizure.  However, you were found to 
be growing bacteria in your urine, and we gave you antibiotics.  
It is likely that your confusion was due to this urinary tract 
infection.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___